US04012414
A solution of 98 g (0.33 mole) of ethyl 5-(4-nitrophenyl)-2-furimidate hydrochloride and 48 g (0.36 mole) of aminoacetaldehyde diethyl acetal in 1500 ml of absolute ethanol was heated under reflux for 4 hr. After standing in a refrigerator for 2 days, the solid which was deposited was collected by filtration and washed with anhydrous ether to give 38 g (30%) of N-(2,2-diethoxyethyl)-5-(4-nitrophenyl)-2-furamidine hydrochloride. The filtrate was concentrated on a rotary evaporator. The solid which was deposited was collected by filtration and washed with anhydrous ether to give 34 g (57% total yield) of additional product, m.p. 220°-280° (dec.)

reactant | ethyl 5-(4-nitrophenyl)-2-furimidate hydrochloride | 0.33 mole, 98 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(OCC)=N
reactant | aminoacetaldehyde diethyl acetal | 0.36 mole, 48 g | C(C)OC(CN)OCC | C6H15NO2
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | N-(2,2-diethoxyethyl)-5-(4-nitrophenyl)-2-furamidine hydrochloride | 38 g, 30% | Cl.C(C)OC(CNC(=N)C=1OC(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])OCC | InChI=1S/C17H21N3O5.ClH/c1-3-23-16(24-4-2)11-19-17(18)15-10-9-14(25-15)12-5-7-13(8-6-12)20(21)22;/h5-10,16H,3-4,11H2,1-2H3,(H2,18,19);1H
